US06492364B1
2-nitrobenzoyl chloride (1.4 ml) was dissolved in THF (50 ml), and then diisopropylethylamine (2.2 ml) and solution of t-butyldimethylsilyloxy (2-aminobenzyl)ether (2.45 g) in THF (20 ml) were added dropwise to the solution, followed by stirring the mixture overnight. Water was added to the reaction solution and the resultant was extracted 3 times with ethyl acetate. Organic layers were combined and washed with brine. The resultant was dried over anhydrous sodium sulfate and concentrated. The residue was dissolved in ethanol (45 ml), and 10% palladium/carbon (300 mg) was added under hydrogen atmosphere, followed by stirring the resulting mixture for 4 hours. After removing 10% palladium/carbon by filtration, the filtrate was concentrated to obtain 2.70 g of N-(2-((1,1,2,2-tetramethyl-1-silapropoxy)methyl)phenyl)(2-aminophenyl)formamide. Yield: 68%.

reactant | 2-nitrobenzoyl chloride | 1.4 ml | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
reactant | diisopropylethylamine | 2.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | t-butyldimethylsilyloxy (2-aminobenzyl)ether | 2.45 g | [Si](C)(C)(C(C)(C)C)OC(C1=C(C=CC=C1)N)OC(C1=C(C=CC=C1)N)O[Si](C)(C)C(C)(C)C | C26H44N2O3Si2
reactant | Water | O | H2O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
product | N-(2-((1,1,2,2-tetramethyl-1-silapropoxy)methyl)phenyl)(2-aminophenyl)formamide | 2.70 g, Yield: 68% | C[Si](C(C)(C)C)(OCC1=C(C=CC=C1)N(C=O)C1=C(C=CC=C1)N)C | C20H28N2O2Si
